US09422307B2
3-(4-amino-2-(3,4,5-trimethoxyphenylamino)thieno[3,2-d]pyrimidin-7-yl)-N-methylbenzenesulfonamide
The target compound of Example 26 (33 mg, 77% yield) was prepared in the same manner as Step 9 of Example 1 using 3-(4-amino-2-chlorothieno[3,2-d]pyrimidin-7-yl)-N-methylbenzenesulfonamide (30 mg, 0.085 mmol) and 3,4,5-trimethoxybenzenamine (31 mg, 0.170 mmol).

reactant | 3-(4-amino-2-chlorothieno[3,2-d]pyrimidin-7-yl)-N-methylbenzenesulfonamide | 0.085 mmol, 30 mg | NC=1C2=C(N=C(N1)Cl)C(=CS2)C=2C=C(C=CC2)S(=O)(=O)NC | C13H11ClN4O2S2
reactant | 3,4,5-trimethoxybenzenamine | 0.170 mmol, 31 mg | COC=1C=C(C=C(C1OC)OC)N | C9H13NO3
product | 3-(4-amino-2-(3,4,5-trimethoxyphenylamino)thieno[3,2-d]pyrimidin-7-yl)-N-methylbenzenesulfonamide | 33 mg, 77% yield | NC=1C2=C(N=C(N1)NC1=CC(=C(C(=C1)OC)OC)OC)C(=CS2)C=2C=C(C=CC2)S(=O)(=O)NC | C22H23N5O5S2
